US09079902B2
A 50-mL round-bottom flask was charged with tert-butyl 6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (469 mg, 0.621 mmol) and THF (4 mL) to give a clear solution. Tetra-n-butylammonium fluoride (1M in THF) (3103 μl, 3.10 mmol) was added in one portion. The mixture was stirred for 3 h, then diluted with EtOAc. The organic solution was washed with a saturated aq. ammonium chloride solution, washed with water (2×), washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude product was purified by chromatography on silica gel (10 to 60% EtOAc/Heptane) to give N-(2,4-dimethoxybenzyl)-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonamide (363.86 mg, 0.555 mmol, 89% yield) as an off-white foam. 1H NMR (400 MHz, DMSO-d6) δ=12.68 (s, 1 H), 8.36 (s, 1 H), 8.09 (s, 1 H), 7.98-7.87 (m, 2 H), 7.83-7.79 (m, 1 H), 7.73 (d, J=8.3 Hz, 1 H), 7.43-7.36 (m, 2 H), 6.98 (s, 1 H), 6.46-6.31 (m, 3 H), 5.18 (s, 2 H), 3.70 (s, 3 H), 3.69 (s, 3 H), 3.26 (s, 3 H). m/z (ESI) 656.2 (M+H)+.

reactant | tert-butyl 6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.621 mmol, 469 mg | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=N2)N(C=C3C3=C(C=C(C=C3)C(F)(F)F)C3=CC=NN3C)C(=O)OC(C)(C)C)C3=NC=NS3)C=CC(=C1)OC | C34H32F3N7O6S2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | Tetra-n-butylammonium fluoride | 3.10 mmol, 1M, 3103 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2,4-dimethoxybenzyl)-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonamide | 0.555 mmol, 363.86 mg, 89% yield | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=N2)NC=C3C3=C(C=C(C=C3)C(F)(F)F)C3=CC=NN3C)C3=NC=NS3)C=CC(=C1)OC | C29H24F3N7O4S2
